US07390903B2
To a stirred solution of 0.26 g (0.90 mmol) N-(3-benzoyl-benzo[b]thiophen-2-yl)-acetamide in 20 ml ethanol was added 1 ml aqueous sodium hydroxide (1 M). The mixture was heated at 85° C. for 1 hour and then poured onto water and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 6:1) afforded 65 mg (25%) (2-amino-benzo[b]thiophen-3-yl)-phenyl-methanone as an orange solid. ES-MS m/e (%): 254 (M+H+, 100).

reactant | N-(3-benzoyl-benzo[b]thiophen-2-yl)-acetamide | 0.90 mmol, 0.26 g | C(C1=CC=CC=C1)(=O)C=1C2=C(SC1NC(C)=O)C=CC=C2 | C17H13NO2S
reactant | sodium hydroxide | 1 M, 1 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (2-amino-benzo[b]thiophen-3-yl)-phenyl-methanone | 65 mg, 25% | NC1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=CC=C2 | C15H11NOS
